US05348964
Dissolve 2-chloroethyl heptyl sulfide (1.0 g, 5.13 mmol) in methylene chloride (50 mL). Add metachloroperbenzoic acid (3.2 g, 15 mmol) portionwise and stir at room temperature for 1 hour. Add addition metachloroperbenzoic acid (1.0 g) and stir at room temperature for 2 hours. Treat with saturated sodium meta bisulfite (until negative starch-iodide test) and basify with saturated sodium hydrogen carbonate. Extract with methylene chloride (2×25 mL), dry (MgSO4) and evaporate in vacuo to yield 1.23 g 2-chloroethyl heptyl sulfone as a white solid; MS (CI/CH4) m/z 227(M+1).

reactant | 2-chloroethyl heptyl sulfide | 5.13 mmol, 1.0 g | C(CCCCCC)SCCCl | C9H19ClS
reactant | metachloroperbenzoic acid | 15 mmol, 3.2 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | metachloroperbenzoic acid | 1.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium meta bisulfite | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 2-chloroethyl heptyl sulfone | 1.23 g | C(CCCCCC)S(=O)(=O)CCCl | C9H19ClO2S
